US08222245B2
[7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetic acid
1,1-Dimethylethyl [7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetate (Preparation 8) (65 mg, 0.131 mmol) was treated with HCl (1305 μl, 5.22 mmol) (4N in dioxan) and left standing for 2 hours. The reaction mixture was then warmed at 50° C. for 1 hour then heated at 60° C. for a further 1.25 hours before solvent removal by evaporation. Trituration with ether/EtOAc failed and the material obtained was purified by MDAP. A white solid (20 mg) was obtained freeze drying appropriate MDAP fractions. Further drying under vacuum at 70° C. for 16 hours yielded the title compound (16 mg) as a solid. δH (400 MHz, d6DMSO) 1.36 (6H, d), 1.51-1.53 (2H, m), 2.98-3.00 (2H, m), 3.4 (2H, br.s), 4.10 (2H, s), 4.86-4.92 (1H, m), 7.32 (1H, d), 7.44 (1H, d), 7.83-7.88 (2H, m), 8.11 (1H, dd), 8.18 (1H, d); MS (ES) C23H2435ClN3O4 requires 441; found 442 [M+H]+.

reactant | 1,1-Dimethylethyl [7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetate | 0.131 mmol, 65 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CC(=O)OC(C)(C)C)C1 | C27H32ClN3O4
reactant | HCl | 5.22 mmol, 4N, 1305 μl | Cl | ClH
solvent | ether EtOAc | CCOCC.CCOC(=O)C
product | [7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetic acid | 20 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CC(=O)O)C1 | C23H24ClN3O4
